US04904680
(2S)-N-(α,α-Dimethylbenzyl)-2-amino-6-(benzyloxycarbonylamino)hexanamide
To 2.18 g of (2S)-N-(α,α-dimethylbenzyl)-2-(t-butoxycarbonylamino)-6-benzyloxycarbonylaminohexanamide (prepared as described in Preparation 8) were added 0.47 g of anisole and 10 ml of trifluoroacetic acid, and the solution was stirred for 30 minutes at room temperature. At the end of this time, the excess trifluoroacetic acid was distilled off under reduced pressure. A 5% w/v aqueous solution of sodium bicarbonate was added to the residue, and the mixture was neutralized and then extracted with ethyl acetate. The organic layer was extracted with a 10% w/v aqueous solution of citric acid. The aqueous extract was separated and neutralized with a 5% w/v aqueous solution of sodium bicarbonate and then extracted again with ethyl acetate. The extract was dried over anhydrous magnesium sulfate. After distilling off the solvent under reduced pressure, 1.01 g of the title compound was obtained as an amorphous material.

reactant | (2S)-N-(α,α-dimethylbenzyl)-2-(t-butoxycarbonylamino)-6-benzyloxycarbonylaminohexanamide | 2.18 g | CC(C1=CC=CC=C1)(C)NC([C@H](CCCCNC(=O)OCC1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C28H39N3O5
reactant | anisole | 0.47 g | C1(=CC=CC=C1)OC | C7H8O
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (2S)-N-(α,α-Dimethylbenzyl)-2-amino-6-(benzyloxycarbonylamino)hexanamide | 1.01 g | CC(C1=CC=CC=C1)(C)NC([C@H](CCCCNC(=O)OCC1=CC=CC=C1)N)=O | C23H31N3O3
